US05144045
2-(2-Methyleneoctadecyl)-1,3 propanediol
A solution of 1.03 g of lithium aluminum hydride in 50 ml of ether is cooled in a water bath. A mixture of 6.78 g of 2-(methyleneoctadecyl)propanedioic acid, diethyl ester in 50 ml of ether is added. This mixture is stirred at reflux for 2 hours, then overnight at room temperature and finally at reflux for 4 hours. The mixture is stirred with sodium sulfate decahydrate, then filtered and recrystallized from ethyl acetate/hexane, to give 4.87 g of the desired compound as white crystals, mp. 64°-65° C.

reactant | lithium aluminum hydride | 1.03 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(methyleneoctadecyl)propanedioic acid, diethyl ester | 6.78 g | C=CCCCCCCCCCCCCCCCCCC(C(=O)OCC)C(=O)OCC | C26H48O4
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | ether | 50 ml | CCOCC | C4H10O
product | 2-(2-Methyleneoctadecyl)-1,3 propanediol | 4.87 g | C=C(CC(CO)CO)CCCCCCCCCCCCCCCC | C22H44O2
